US07414131B2
A. 1,2,3,4-Tetrahydro-4,4-dimethylisoquinolin-7-amine
To a stirred mixture of LiAlH4 (800 mg, 21 mmol) and anhydrous THF (30 mL) was added at 0° C. a solution of 7-amino-4,4-dimethylisoquinoline-1,3(2H,4H)-dione (500 mg, 2.5 mmol) in THF (5 mL). The mixture was stirred at room temperature under N2 for 24 h, and then carefully treated with wet THF, 10% aq. NaOH, and filtered through Celite. The filtrate was concentrated and the residue was dissolved in EtOAc (150 mL). The organic phase was washed with brine, dried (Na2SO4), and evaporated. The residue was purified by chromatography to give the title compound (270 mg, 63%).

reactant | LiAlH4 | 21 mmol, 800 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 7-amino-4,4-dimethylisoquinoline-1,3(2H,4H)-dione | 2.5 mmol, 500 mg | NC1=CC=C2C(C(NC(C2=C1)=O)=O)(C)C | C11H12N2O2
reactant | NaOH | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1,2,3,4-Tetrahydro-4,4-dimethylisoquinolin-7-amine | 270 mg, 63% | CC1(CNCC2=CC(=CC=C12)N)C | C11H16N2
